US04160769
Preparation of 1,1'-Dihydroxydicyclohexyl Peroxide
In a 200 ml, 3-neck round-bottom flask equipped with a magnetic stirring bar, two addition funnels, and a thermometer, was placed 20.45 ml. of 30% hydrogen peroxide. One addition funnel was charged with 41.3 ml. of distilled cyclohexanone and the other with 82.6 ml of water. The contents of the two addition funnels were discharged gradually and constantly into the stirred round-bottom flask whose contents were kept at a constant temperature of about 25°-26° C. No exothermicity was noted. After both addition funnels were emptied into the round-bottom flask stirring was continued overnight.

reactant | hydrogen peroxide | OO | H2O2
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
solvent | water | 82.6 ml | O | H2O
product | 1,1'-Dihydroxydicyclohexyl Peroxide | C1CCC(CC1)(O)OOC2(CCCCC2)O | C12H22O4
